US04849419
4-Nitrobenzyl 3-(3-carboxyphenoxy)-2-(4(S)-chloro-3(S)-(1(R)-hydroxyethyl)azetidin-2-on-1-yl)-3-trimethylacetylthiopropenoate
To a stirred solution of 5.5 g of 4-nitrobenzyl 3-(3-carboxyphenoxy)-2-(4(R)-ethylthio-3(S)-[1(R)-hydroxyethyl]azetidin-2-on-1-yl)-3-trimethylacetylthiopropenoate in 50 ml of dry deuterochloroform at -40° C. was added a solution of 10.6 mmol of chlorine in carbon tetrachloride. The mixture was stirred for a further 30 minutes at -40° C., and for 30 minutes at room temperature, and was evaporated in vacuo. Chromatography of the residue over silica gel, and elution with hexane-ethyl acetate-formic acid mixtures afforded 4.6 g of the title compound.

reactant | 4-nitrobenzyl 3-(3-carboxyphenoxy)-2-(4(R)-ethylthio-3(S)-[1(R)-hydroxyethyl]azetidin-2-on-1-yl)-3-trimethylacetylthiopropenoate | 5.5 g | C(=O)(O)C=1C=C(OC(=C(C(=S)OCC2=CC=C(C=C2)[N+](=O)[O-])N2C([C@@H]([C@H]2SCC)[C@@H](C)O)=O)C(C(C)(C)C)=O)C=CC1 | C29H32N2O9S2
reactant | chlorine | 10.6 mmol | ClCl | Cl2
solvent | deuterochloroform | 50 ml | [2H]C(Cl)(Cl)Cl | CHCl3
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Nitrobenzyl 3-(3-carboxyphenoxy)-2-(4(S)-chloro-3(S)-(1(R)-hydroxyethyl)azetidin-2-on-1-yl)-3-trimethylacetylthiopropenoate | 4.6 g | C(=O)(O)C=1C=C(OC(=C(C(=S)OCC2=CC=C(C=C2)[N+](=O)[O-])N2C([C@@H]([C@@H]2Cl)[C@@H](C)O)=O)C(C(C)(C)C)=O)C=CC1 | C27H27ClN2O9S
